US05929097
2-(4-Methoxy-benzenesulfonylamino)-4-methyl-benzoic acid
To a room temperature solution of 2-amino-4-methyl benzoic acid (1.93 g, 12.8 mmol) in 20 ml of dioxane:H2O (1:1) containing triethylamine (2.68 ml, 19.2 mmol), was added 4-methoxybenzenesulfonyl chloride (2.91 g, 14.1 mmol). The mixture was stired at rt for 18 hr. The resulting mixture was diluted with methylene chloride, washed with 1N HCl, H2O, brine, dried and concentrated. The crude liquid was triturated with 16 ml of EtOAc: hexane (1:3) to afford 2.358 g of the desired product as a white solid (57%). Electrospray Mass Spec 322 (M+H).

reactant | 2-amino-4-methyl benzoic acid | 12.8 mmol, 1.93 g | NC1=C(C(=O)O)C=CC(=C1)C | C8H9NO2
reactant | triethylamine | 19.2 mmol, 2.68 ml | C(C)N(CC)CC | C6H15N
reactant | 4-methoxybenzenesulfonyl chloride | 14.1 mmol, 2.91 g | COC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO3S
solvent | dioxane H2O | 20 ml | O1CCOCC1.O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-(4-Methoxy-benzenesulfonylamino)-4-methyl-benzoic acid | 2.358 g, 57% | COC1=CC=C(C=C1)S(=O)(=O)NC1=C(C(=O)O)C=CC(=C1)C | C15H15NO5S
